US08871756B2
3-{[6-Methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-yl]amino}propane-1,2-diol
The title compound was prepared in analogy to Example 32-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide (prepared in analogy to the one in Example 18-1) and 1-(2,2-dimethyl-1,3-dioxolan-4-yl)methanamine. MS obsd. (ESI+) [(M+H)+] 412, 1H NMR (400 MHz, CD3OD) δ ppm 7.78 (d, J=7.33 Hz, 1 H), 7.74 (dd, J=7.58, 1.26 Hz, 1 H), 7.62 (s, 1 H), 7.55-7.39 (m, 3 H), 7.33 (dd, J=8.34, 1.52 Hz, 1 H), 6.13 (s, 1 H), 5.24 (dd, J=16.04, 2.91 Hz, 2 H), 4.82 (d, J=7.58 Hz, 1 H), 4.76 (d, J=14.15 Hz, 2 H), 4.06-3.83 (m, 1 H), 3.75-3.63 (m, 2 H), 3.63-3.52 (m, 1 H), 3.45 (d, J=3.79 Hz, 2 H), 3.37 (td, J=6.88, 4.42 Hz, 1 H), 2.43 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O | C19H17ClN2OS
reactant | 1-(2,2-dimethyl-1,3-dioxolan-4-yl)methanamine | CC1(OCC(O1)CN)C | C6H13NO2
product | 3-{[6-Methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-yl]amino}propane-1,2-diol | CC=1C=C2C(=CC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)=O)NCC(CO)O | C22H25N3O3S
